// Generated for: spectre
// Generated on: May  4 11:39:50 2022
// Design library name: Project_Lib1_sim
// Design cell name: dflipflop_sim
// Design view name: schematic
simulator lang=spectre
global 0
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/l130e-rf-v171-control.scs"
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_LL12_V141.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_LVT33_BPW_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_RVT33_BPW_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS12_BPW_V241.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS_LVT12_BPW_V031.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_BJT_V141.lib.scs" section=typ_BIP
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_LVT33_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_NVT33_v031.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_RVT33_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS12_V241.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS_LVT12_V031.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS_NVT12_V041.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_20f_MIMCAP_V011.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_15f_MIMCAP_V021.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_MIMCAP_V121.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/mm130e_mom_v031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_RES_V152.lib.scs" section=res_typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_SP12_V141.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_DIODE_V151.mdl.scs"
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_cr20k_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwcr20k_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwsqsk_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwsy20kct_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwsy20k_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_sqsk_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_sy20kct_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_sy20k_rfvil_V031.lib.scs" section=typ

// Library name: Project_Lib1
// Cell name: dff
// View name: schematic
subckt dff CLK D GND Q VDD nQ nRST
    NM19 (net70 CLK net67 GND) n_12_hsl130e w=480.0n l=120.0n as=1.632e-13 \
        ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM18 (net67 net11 GND GND) n_12_hsl130e w=480.0n l=120.0n as=1.632e-13 \
        ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM22 (net65 net30 GND GND) n_12_hsl130e w=480.0n l=120.0n as=1.632e-13 \
        ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM24 (net71 nQ GND GND) n_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM23 (net66 CLK net65 GND) n_12_hsl130e w=480.0n l=120.0n as=1.632e-13 \
        ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM28 (net68 nRST GND GND) n_12_hsl130e w=480.0n l=120.0n as=1.632e-13 \
        ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM21 (net83 nRST net66 GND) n_12_hsl130e w=480.0n l=120.0n \
        as=1.632e-13 ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    NM15 (net30 net11 net69 GND) n_12_hsl130e w=320.0n l=120.0n \
        as=1.088e-13 ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    NM14 (net69 net83 GND GND) n_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM20 (net79 net83 net70 GND) n_12_hsl130e w=480.0n l=120.0n \
        as=1.632e-13 ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    NM25 (Q net83 net71 GND) n_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM27 (net73 net79 net68 GND) n_12_hsl130e w=480.0n l=120.0n \
        as=1.632e-13 ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    NM26 (nQ Q net73 GND) n_12_hsl130e w=480.0n l=120.0n as=1.632e-13 \
        ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM2 (net11 nRST net72 GND) n_12_hsl130e w=480.0n l=120.0n as=1.632e-13 \
        ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM1 (net72 D net74 GND) n_12_hsl130e w=480.0n l=120.0n as=1.632e-13 \
        ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM0 (net74 net79 GND GND) n_12_hsl130e w=480.0n l=120.0n as=1.632e-13 \
        ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM21 (net83 net30 VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM20 (net83 CLK VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM10 (net30 net11 VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM9 (net30 net83 VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM18 (net79 net83 VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM26 (nQ nRST VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM25 (nQ net79 VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM2 (net11 net79 VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM1 (net11 D VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM0 (net11 nRST VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM19 (net83 nRST VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM17 (net79 CLK VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM16 (net79 net11 VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM23 (Q nQ VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM22 (Q net83 VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM24 (nQ Q VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
ends dff
// End of subcircuit definition.

// Library name: Project_Lib1_sim
// Cell name: dflipflop_sim
// View name: schematic
V0 (net3 0) vsource dc=1.2 type=dc
V3 (NOT_R 0) vsource type=pulse val0=1.2 val1=0 period=64n delay=20n \
        rise=10p fall=10p width=20n
V2 (CLK 0) vsource type=pulse val0=0 val1=1.2 period=8n delay=2n rise=10p \
        fall=10p width=4n
V1 (D 0) vsource type=pulse val0=0 val1=1.2 period=16n delay=0 rise=10p \
        fall=10p width=8n
C1 (Q 0) capacitor c=1f
C0 (NOT_Q 0) capacitor c=1f
I2 (CLK D 0 Q net3 NOT_Q NOT_R) dff
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=64n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
